US07799805B2
(4-Chloro-3-hydroxymethyl-benzyl)-methyl-carbamic acid tert-butyl ester
TBAF (1M in THF, 2.25 mL, 2.25 mmol) was added to a sol. of [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-methyl-carbamic acid tert-butyl ester (450 mg, 1.13 mmol) in THF (11 mL) at 0° C. The mixture was stirred for 1 h while warming up to rt. EtOAc (50 mL) was added, and the resulting mixture was washed with aq. sat. NH4Cl (2×) and brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 40:60) yielded the title compound (110 mg, 34%). LC-MS: tR=0.91 min; ES+: 271.10.

reactant | TBAF | 2.25 mmol, 1M, 2.25 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-methyl-carbamic acid tert-butyl ester | 1.13 mmol, 450 mg | C(C)(C)(C)OC(N(C)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C20H34ClNO3Si
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | (4-Chloro-3-hydroxymethyl-benzyl)-methyl-carbamic acid tert-butyl ester | 110 mg, 34% | C(C)(C)(C)OC(N(C)CC1=CC(=C(C=C1)Cl)CO)=O | C14H20ClNO3
